US08232278B2
To a suspension of 2-acetamido-4-(1,2,4-triazolyl)-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine (367 mg, 1 mmol) in dioxane (20 ml) was added aniline (186 mg, 2 mmol). The solution was stirred overnight at 60° C. The solvents were evaporated in vacuo yielding crude 2-acetamido-4-anilino-6-(4-fluoro-phenyl)-pyrido[3,2-d]pyrimidine. The residue was redissolved in a mixture of dichloromethane and ethanol (in a ratio of 80/20, 10 ml). A sodium ethoxide solution (0.2 N solution) was added till pH 12 and the resulting mixture was stirred overnight at room temperature. The solvents were evaporated in vacuo. The crude residue was purified by preparative TLC on silica, using a methanol/dichloromethane mixture in a ratio of 10:90 as mobile phase, yielding the pure title compound (160 mg, 50%) which was characterised as follows:

reactant | 2-acetamido-4-(1,2,4-triazolyl)-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine | 1 mmol, 367 mg | C(C)(=O)NC=1N=C(C2=C(N1)C=CC(=N2)C2=CC=C(C=C2)F)C2=NNC=N2 | C17H12FN7O
reactant | aniline | 2 mmol, 186 mg | NC1=CC=CC=C1 | C6H7N
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-acetamido-4-anilino-6-(4-fluoro-phenyl)-pyrido[3,2-d]pyrimidine | C(C)(=O)NC=1N=C(C2=C(N1)C=CC(=N2)C2=CC=C(C=C2)F)NC2=CC=CC=C2 | C21H16FN5O
